US05616581
Thionyl chloride (20 ml) was dropwise added to 2-hydroxymethyl-3-methyl-4-(2-(1,2,3,4-tetrahydroisoquinolin-2-yl)ethylthio)pyridine (2.8 g) under ice-cooling and the mixture was stirred at room temperature for 1.5 hours. After the completion of the reaction, the thionyl chloride was distilled away. The residue was alkali-oversaturated with potassium carbonate and extracted with chloroform. The chloroform layer was dried over anhydrous magnesium sulfate and the solvent was distilled away to give 2.1 g of 2-chloromethyl-3-methyl-4-(2-(1,2,3,4-tetrahydroisoquinolin-2-yl)ethylthio)pyridine. The product was added to ethanol (30 ml) containing a solution of 2-mercaptobenzimidazole (1.3 g) and sodium hydroxide (1.2 g) in water (10 ml) and the mixture was refluxed under heating for 2 hours. After the completion of the reaction, the ethanol was distilled away and water was added to the residue, followed by extraction with chloroform. The extract was dried over anhydrous magnesium sulfate and the solvent was distilled away. Acetone was added to the residue to allow crystallization. The obtained crystals were recrystallized from isopropyl alcohol to give 2-((3-methyl-4-(2-(1,2,3,4-tetrahydroisoquinolin-2-yl)ethylthio)-2-pyridyl)methylthio)-1H-benzimidazole as crystals, melting point 90°-94° C.

reactant | 2-hydroxymethyl-3-methyl-4-(2-(1,2,3,4-tetrahydroisoquinolin-2-yl)ethylthio)pyridine | 2.8 g | OCC1=NC=CC(=C1C)SCCN1CC2=CC=CC=C2CC1 | C18H22N2OS
reactant | Thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-chloromethyl-3-methyl-4-(2-(1,2,3,4-tetrahydroisoquinolin-2-yl)ethylthio)pyridine | 2.1 g | ClCC1=NC=CC(=C1C)SCCN1CC2=CC=CC=C2CC1 | C18H21ClN2S
